data/oMe_Silver.jsonl
{"reaction_id": "NR-322_1-C(F)(F)F_2-C2CCOC2_3-CC=CC_4-c2ccoc2","level": "easy","name": "Wittig Reaction","reactants_smiles": ["c1ccccc1[P+](c1ccccc1)(c1ccccc1)C([H])(C(F)(F)F)C2CCOC2","O=C(CC=CC)c2ccoc2"],"products_smiles": ["C(=C(CC=CC)c2ccoc2)(C(F)(F)F)C2CCOC2","O=P(c1ccccc1)(c1ccccc1)c1ccccc1"],"conditions": "Strong base (e.g., LDA, nBuLi)","mechanism_step_nums": 3,"mechanism": [{"step": 1,"type": "proton_transfer","subtype": "acid_base_proton_transfer","intermediate_smiles": "c1ccccc1[P+](c1ccccc1)(c1ccccc1)[C-](C(F)(F)F)C2CCOC2","step_weight": 0,"rationale": "The strong base abstracts the acidic α-proton next to the positively charged phosphorus, stabilized by adjacent phenyl groups through inductive and resonance effects, generating the nucleophilic ylide."},{"step": 2,"type": "pericyclic","subtype": "cycloaddition","intermediate_smiles": "c1ccccc1P1(c2ccccc2)(c2ccccc2)OC(CC=CC)(c2ccoc2)C1(C(F)(F)F)C2CCOC2","step_weight": 0,"rationale": "The nucleophilic ylide carbon attacks the electrophilic carbonyl carbon, while the carbonyl oxygen coordinates to phosphorus, forming a four-membered oxaphosphetane via concerted cycloaddition favored by orbital symmetry."},{"step": 3,"type": "pericyclic","subtype": "cycloreversion","intermediate_smiles": "C(=C(CC=CC)c2ccoc2)(C(F)(F)F)C2CCOC2","step_weight": 0,"rationale": "The strained oxaphosphetane undergoes cycloreversion, driven by relief of ring strain and formation of strong P=O and C=C bonds, yielding the alkene and triphenylphosphine oxide."}],"description": "A strong base deprotonates the phosphonium salt to form a stabilized ylide, which undergoes [2+2] cycloaddition with the carbonyl to give an oxaphosphetane intermediate. Cycloreversion then yields the alkene and triphenylphosphine oxide as the thermodynamically favored products."}
{"reaction_id": "NR-237_1-Cc1ccccc1_2-c1ncccc1_3-c1ccc(C(F)(F)F)cc1_4-C1CCCCC1","level": "medium","name": "Staudinger Reaction","reactants_smiles": ["Cc1ccccc1N=[N+]=[N-]","P(c1ncccc1)(c1ccc(C(F)(F)F)cc1)(C1CCCCC1)"],"products_smiles": ["Cc1ccccc1N","O=P(c1ncccc1)(c1ccc(C(F)(F)F)cc1)(C1CCCCC1)"],"conditions": "H2O","mechanism_step_nums": 6,"mechanism": [{"step": 1,"type": "addition","subtype": "nucleophilic_addition","intermediate_smiles": "Cc1ccccc1N=[N+]=N[P+](c1ncccc1)(c1ccc(C(F)(F)F)cc1)(C1CCCCC1)","step_weight": 0,"rationale": "The lone pair on phosphorus attacks the electrophilic terminal nitrogen of the azide, favored by the high polarizability and nucleophilicity of phosphorus and the electron deficiency at the azide terminus."},{"step": 2,"type": "addition","subtype": "nucleophilic_addition","intermediate_smiles": "Cc1ccccc1N1N=NP1(c1ncccc1)(c1ccc(C(F)(F)F)cc1)(C1CCCCC1)","step_weight": 0,"rationale": "Intramolecular attack by the internal nitrogen on phosphorus forms a strained four-membered phosphatriazene ring, driven by proximity and the strong P–N bond formation."},{"step": 3,"type": "elimination","subtype": "leaving_group_elimination","intermediate_smiles": "Cc1ccccc1N=P(c1ncccc1)(c1ccc(C(F)(F)F)cc1)(C1CCCCC1)","step_weight": 0,"rationale": "The unstable ring collapses, expelling N₂, a very stable leaving group, to form the iminophosphorane, driven by entropic gain and N₂ stability."},{"step": 4,"type": "proton_transfer","subtype": "acid_base_proton_transfer","intermediate_smiles": "Cc1ccccc1[NH+]=P(c1ncccc1)(c1ccc(C(F)(F)F)cc1)(C1CCCCC1)","step_weight": 0,"rationale": "Protonation of the iminophosphorane nitrogen increases electrophilicity at phosphorus, activating it toward nucleophilic attack by water."},{"step": 5,"type": "addition","subtype": "nucleophilic_addition","intermediate_smiles": "Cc1ccccc1N[P](O)(c1ncccc1)(c1ccc(C(F)(F)F)cc1)(C1CCCCC1)","step_weight": 0,"rationale": "Water attacks the electrophilic phosphorus center, favored by the strong thermodynamic drive to form a P=O bond and the activation from prior protonation."},{"step": 6,"type": "elimination","subtype": "leaving_group_elimination","intermediate_smiles": "Cc1ccccc1N","step_weight": 0,"rationale": "Collapse of the intermediate expels the amine, driven by the stability of the P=O bond and relief of electronic strain on phosphorus."}],"description": "In the Staudinger reaction, the phosphine nucleophilically attacks the azide to form a phosphazide, which cyclizes and eliminates N₂ to give an iminophosphorane. Hydrolysis under aqueous conditions then converts this intermediate into a primary amine and phosphine oxide, driven by strong P=O bond formation."}
